US08258130B2
A solution of 4-methyl-2-thiazol-2-yl-pyrimidine-5-carboxylic acid (88 mg, 0.40 mmol) and 3-ethyl-5-trifluoromethyl-pyrrolo[3,2-b]pyridin-1-ylamine (89 mg, 0.40 mmol) in DMF (5 mL) is stirred at 50° C. for 1 h. The mixture is treated with DMTMM (113 mg, 0.41 mmol) and stirred at 50° C. overnight. The mixture is diluted with saturated aqueous Na2CO3 (5 mL) and stirred for 10 min. The precipitate is collected by filtration, washed with H2O (50 mL) and heptane (50 mL), and dried in vacuo to afford 4-methyl-2-thiazol-2-yl-pyrimidine-5-carboxylic acid (3-ethyl-5-trifluoromethyl-pyrrolo[3,2-b]pyridin-1-yl)-amide (75 mg, 40%). MS: 433 (M+H); 1H NMR (300 MHz, DMSO-d6): δ 12.19 (s, NH, 1H), 9.28 (s, 1H), 8.15 (m, 2H), 8.08 (d, 1H), 7.87 (s, 1H), 7.72 (d, 1H), 2.83 (q, 2H), 2.77 (s, 3H), 1.35 (t, 3H).

reactant | 4-methyl-2-thiazol-2-yl-pyrimidine-5-carboxylic acid | 0.40 mmol, 88 mg | CC1=NC(=NC=C1C(=O)O)C=1SC=CN1 | C9H7N3O2S
reactant | 3-ethyl-5-trifluoromethyl-pyrrolo[3,2-b]pyridin-1-ylamine | 0.40 mmol, 89 mg | C(C)C1=CN(C=2C1=NC(=CC2)C(F)(F)F)N | C10H10F3N3
reactant | DMTMM | 0.41 mmol, 113 mg | C[N+]1(CCOCC1)C2=NC(=NC(=N2)OC)OC.[Cl-]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | Na2CO3 | 5 mL | C(=O)([O-])[O-].[Na+].[Na+]
product | 4-methyl-2-thiazol-2-yl-pyrimidine-5-carboxylic acid (3-ethyl-5-trifluoromethyl-pyrrolo[3,2-b]pyridin-1-yl)-amide | 75 mg, 40% | C(C)C1=CN(C=2C1=NC(=CC2)C(F)(F)F)NC(=O)C=2C(=NC(=NC2)C=2SC=CN2)C | C19H15F3N6OS
